US05814653
6-(2-naphthoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 10.4 mg (0.046 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 10.2 μL (0.051 mMol) 2-naphthoyl chloride, 12.6 mg (72%) of the title compound were recovered as a dark brown solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.046 mMol, 10.4 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 2-naphthoyl chloride | 0.051 mMol, 10.2 μL | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 6-(2-naphthoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 12.6 mg, 72% | C1=C(C=CC2=CC=CC=C12)C(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C25H25N3O
